US05571821
A solution of 1-(2-thienyl)benzyl acetate in THF (5 ml) was added carefully to dry liquid ammonia (100 ml). Lithium metal was added in small portions until the blue color persisted. The resulting reaction mixture was stirred for 30 min, and the reaction was quenched by addition of solid ammonium chloride. The residue, after complete evaporation of liquid ammonia, was dissolved in water (50 ml) and was extracted with methylene chloride (2×50 ml). The combined organic layer was dried over MgSO4 and filtered. Removal of the solvent gave crude product, which was purified by column chromatography using hexane as eluent to give 2-benzylthiophene (1.2 g, 68% yield).

reactant | 1-(2-thienyl)benzyl acetate | C(C)(=O)OCC1(CC=CC=C1)C=1SC=CC1 | C13H14O2S
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-benzylthiophene | 1.2 g, 68% yield | C(C1=CC=CC=C1)C=1SC=CC1 | C11H10S
